US05296495
A mixture of 4-tert-butyl-2-[5-(2-cyanomethylphenylmethoxy)benzofuran-2-yl]thiazole (0.5 g) and 40% aqueous potassium hydroxide (10 ml) in diethylene glycol monomethyl ether (10 ml) was heated at 110-120° C. for 1.5 hours. After being cooled, the resulting solution was poured into ice-water, acidified with diluted aqueous hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure to give crude residue. The residue was subjected to column chromatography on silica gel and eluted with a mixture of n-hexane and ethyl acetate (4:1). The fractions containing object compound were combined and concentrated to give an oil. The oil was dissolved in aqueous sodium hydrogen carbonate and washed with ethyl acetate. The ethyl acetate layer was concentrated under reduced pressure to give an oil, which was dissolved in aqueous sodium hydroxide and adjusted to pH 1 with diluted aqueous hydrochloric acid. The resulting precipitates were collected by filtration and washed with water to give 4-tert-butyl-2-[5-(2 -carboxymethylphenylmethoxy)benzofuran-2-yl]thiazole hydrochloride (5.00 g).

reactant | 4-tert-butyl-2-[5-(2-cyanomethylphenylmethoxy)benzofuran-2-yl]thiazole | 0.5 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(C=CC=C2)CC#N | C24H22N2O2S
reactant | potassium hydroxide | 10 ml | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | diethylene glycol monomethyl ether | 10 ml | COCCOCCO | C5H12O3
solvent | sodium hydroxide | [OH-].[Na+]
product | 4-tert-butyl-2-[5-(2 -carboxymethylphenylmethoxy)benzofuran-2-yl]thiazole hydrochloride | 5.00 g | Cl.C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)OCC2=C(C=CC=C2)CC(=O)O | InChI=1S/C24H23NO4S.ClH/c1-24(2,3)21-14-30-23(25-21)20-11-17-10-18(8-9-19(17)29-20)28-13-16-7-5-4-6-15(16)12-22(26)27;/h4-11,14H,12-13H2,1-3H3,(H,26,27);1H
